US06740766B2
As in Example 1, 1,3-cyclopentadiene (1.00 g, 15.13 mmol), trichlorosilane (8.19 g, 60.47 mmol) and tetrabutylphosphonium chloride (0.44 g, 1.49 mmol) were added in a 25 mL stainless steel tube under nitrogen atmosphere. After sealing the cylinder with a cap, the reactor was maintained at 180° C. for 10 hours. The resulting mixture was distilled to yield 0.45 g (yield: 9%) of 2,4-bis(trichlorosilyl)-1-pentene.

reactant | 1,3-cyclopentadiene | 15.13 mmol, 1.00 g | C1=CC=CC1 | C5H6
reactant | trichlorosilane | 60.47 mmol, 8.19 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | tetrabutylphosphonium chloride | 1.49 mmol, 0.44 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | 2,4-bis(trichlorosilyl)-1-pentene | 0.45 g, yield: 9% | Cl[Si](C(=C)CC(C)[Si](Cl)(Cl)Cl)(Cl)Cl | C5H8Cl6Si2
